US05527813
4-Chloro-3-(3-hexyloxy-1,2,5-thiadiazol-4-yl)-1-azabicyclo[3.3.1]non-3-ene hydrochloride
The compound was made as described in example 44 by reacting 4-chloro-3-(3-chloro-1,2,5-thiadiazol-4-yl)-1-azabicyclo[3.3.1]non-3-ene with 1-hexanol. The free base was crystallized as the hydrochloride from ether. (Compound 94). M.p. 100°-101° C.

reactant | 4-chloro-3-(3-chloro-1,2,5-thiadiazol-4-yl)-1-azabicyclo[3.3.1]non-3-ene | ClC1=C(CN2CCCC1C2)C=2C(=NSN2)Cl | C10H11Cl2N3S
reactant | 1-hexanol | C(CCCCC)O | C6H14O
product | 4-Chloro-3-(3-hexyloxy-1,2,5-thiadiazol-4-yl)-1-azabicyclo[3.3.1]non-3-ene hydrochloride | Cl.ClC1=C(CN2CCCC1C2)C=2C(=NSN2)OCCCCCC | InChI=1S/C16H24ClN3OS.ClH/c1-2-3-4-5-9-21-16-15(18-22-19-16)13-11-20-8-6-7-12(10-20)14(13)17;/h12H,2-11H2,1H3;1H
